Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with no known pmhx and was found down by 
family today and presented to an OSH in sepsis. She was 
transferred to ___ for further evaluation and is being 
admitted to the FICU for c/f sepsis and altered mental status.  
 Per collateral from her daughter-in-law, the pt was last seen 
in her usual state of health ~4 days ago, but on ___ 
was found down by her brother and daughter-in-law. At that time, 
her brother reports she was awake and conversive, but was still 
confused. At baseline, she will forget things she has said 
mid-conversation and hallucinated once with her sister-in-law 
"man outside the door with an accordion playing devil music." 
She reported she was on the ground for a few days.  
 Of note, in recent months, the family has been trying to 
reconnect with the pt as she reportedly had a MVA (unclear when 
this occurred). Her sister-in-law has been seeing her most often 
and reports she is a bit confused at baseline, but for the most 
part, able to hold conversations and not agitated.  
 She was transferred to ___ where there was c/f sepsis; she 
received 3L IVF, IV Zosyn, and was transferred to ___ ED for 
higher level of care and further evaluation by surg onc.  
 On arrival, she was noted to have fungating, necrotic masses on 
her right chest wall (concerning for breast cancer) and left 
groin. The family was unaware of these lesions. The patient was 
altered, agitated, and unable to provide any additional history. 
 
 In the ED, initial VS were:  
 T 98.5 HR 110 BP 135/87 RR 18 O2 Sat 98% RA  
 
 Labs significant for:  
 WBC 17.1, transaminitis (ALT 57, AST 62), albumin 2.3, Lipase 
70, Creatinine 1.9, coags up ___ 13.2, PTT 23.5, INR 1.2)  
 Potassium 5.0  
 UA with > 182 WBC and small blood, UCx, BCx pending  
 CPK 174  
 Initial VBG: pH 7.24, CO2 27, Lactate 4.1; CRP 96  
 5pm: pH 7.24, CO2 29, Lactate 3.5; CRP 85.4 --> 3L IVF in ED 
-->  
 10pm: pH 7.25, CO2 33, lactate 2.8  
 0300am: pH 7.24, CO2 13, lactate 2.7  
 Patient was given:  
 (Prior to transfer to our hospital)  
 3L fluids  
 IV Zosyn  
 (In the ED)  
 IV Clindamycin 300mg  
 IV Vancomycin 1500mg  
 IV Zosyn 4.5g  
 3L fluids  
 Olanzapine 2.5  
 Heparin drip  
 Surgery was consulted and recommended repeating lactate (2.8 
from 3.5) and sending CRP (85.4 down from 96). Also recommended 
a full pelvis CT as well as breast surgery consult for likely 
inflammatory breast cancer.  
 Imaging notable for:  
 OSH NCHCT, C-spine was negative.  
 CT C/A/P with contrast-  
 1. Filling defect within the right common femoral vein (series 
2, image 103)is concerning for DVT.  
 2. Occlusive filling defect is seen at the left common basal 
artery which appears to extend to all 3 left basilar segments, 
is concerning for pulmonary embolism (series 2, image 33). 
Additional likely pulmonary embolism of the right medial basal 
segment.  
 3. Dominant right chest wall mass extending into the axilla 
measuring 14.4 by 13.1 cm, with numerous additional satellite 
lesions including a exophytic mass over the right breast 
measuring 7.6 x 6.3 cm and multiple masses within the axilla, 
anterior chest wall and right supraclavicular area. No foci of 
air to indicate necrotizing fasciitis. There is significant 
stranding along the right flank inferior to the mass to the 
level of the iliac crest without focal  
 fluid collection, likely dependent edema. There is mediastinal 
lymphadenopathy.  
 4. Numerous left axillary masses are demonstrated which may 
represent further spread of disease versus metastatic 
lymphadenopathy, measuring up to 3.6 cm.  
 5. 0.8 cm gallbladder stone as well as a 1.8 cm oval lesion 
within the gallbladder, no associated gallbladder wall 
thickening or pericholecystic fluid. Overlying 2.0 cm of 
irregular opacification in the right hepatic lobe is 
indeterminate.  
 6. No foci of air or fluid collections within the visualized 
perineum, however the entire perineum was not included in the 
study.  
 CT Pelvis without contrast-  
 Within the left groin, as the groin crease reaches the 
perineum, there is an area of soft tissue stranding and 
thickening measuring approximately 5.8 x 2.5 cm. Small foci of 
air within the collection (series 2, image 37). This may 
represent gas within the wound or trapped air within the groin 
crease.  
 ED was unable to reach ACS after CT pelvis and requested 
transfer to ICU.  
 VS prior to transfer:  
 T 36.9 HR 93 BP 127/65 RR 33 O2 Sat 97% RA  
 
 On arrival to the ___, pt is still confused, agitated, 
swearing at staff members and unwilling to answer questions.  
 REVIEW OF SYSTEMS: Complete 10-point ROS negative except as per 
HPI. 

 
Past Medical History:
None
 
Social History:
___
Family History:
None known
 
Physical Exam:
VITALS: Reviewed in metavision  
 GENERAL: Awake, but agitated and confused. Swearing at staff 
members.  
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: CTAB, no wheezes, crackles, rhonchi.  
 CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
 ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
 SKIN: Necrotic, fungating R. chest wall mass with axillary 
lesions + L. axillary lesions. L. labial wound with 
foul-smelling discharge.  
 NEURO: As above (agitated, confused).  

 
Pertinent Results:
___ 02:56PM BLOOD WBC-17.1* RBC-3.04* Hgb-9.4* Hct-31.3* 
MCV-103* MCH-30.9 MCHC-30.0* RDW-14.1 RDWSD-52.9* Plt ___
___ 02:56PM BLOOD ___ PTT-23.5* ___
___ 02:56PM BLOOD Glucose-81 UreaN-32* Creat-1.9* Na-147 
K-5.0 Cl-104 HCO3-7* AnGap-36*
___ 02:56PM BLOOD ALT-57* AST-62* CK(CPK)-174 AlkPhos-92 
TotBili-0.4
___ 02:56PM BLOOD Lipase-70*
___ 02:36AM BLOOD cTropnT-<0.01 ___
___ 07:25AM BLOOD Albumin-1.8* Calcium-7.5* Phos-3.8 Mg-2.0
___ 02:36AM BLOOD calTIBC-88* VitB12-791 Folate-5 Hapto-162 
Ferritn-541* TRF-68*
___ 05:44AM BLOOD Osmolal-305
___ 10:30PM BLOOD CRP-85.4*
___ 05:44AM BLOOD Ethanol-NEG
___ 03:14PM BLOOD Lactate-4.1*

IMPRESSION: 
  
  
1. Filling defect within the right common femoral vein is 
suspicious for DVT. 
2. Bilateral filling defects are consistent with segmental 
pulmonary emboli in 
bilatera lower lobes. 
3. Right chest wall mass measuring 14.4 x 13.1 cm with likely 
lymphadenopathy 
or spread into the bilateral axilla.  An exophytic, ulcerating 
mass over the 
right breast measures 7.6 x 6.3 cm.  Supraclavicular and 
mediastinal 
lymphadenopathy are present and multiple satellite lesions. 
4. Multiple masses within the left axilla likely represent 
further spread of 
disease versus metastatic lymphadenopathy. 
5. 0.8 cm gallbladder stone without evidence of acute 
cholecystitis. 
6. 1.8 cm soft tissue all within the gallbladder may represent 
additional 
stone versus polyp versus adenomyomatosis.  A overlying 2.0 cm 
regular 
opacification along the right hepatic lobe may be extension of 
soft tissue 
from the gallbladder.  Findings are suspicious, recommend 
nonurgent right 
upper quadrant ultrasound or MR for further evaluation. 
7. Perineum was not fully imaged. 

IMPRESSION: 
  
  
1. Within the left groin, as the groin crease reaches the 
perineum, there is 
an area of soft tissue stranding and thickening measuring 
approximately 5.8 x 
2.5 cm.  A few small foci of gas are within this region (series 
2, image 37). 
This may represent gas within the wound or trapped air within 
the groin 
crease. 

 
Brief Hospital Course:
Ms. ___ is a ___ with no known pmhx and was found down by 
family today and presented to an OSH in sepsis. She was 
transferred to ___ for further evaluation and is being 
admitted to the ___ for c/f septic shock and altered mental 
status.

# Sepsis concern
# Skin and soft tissue infection: R chest wall mass seen by 
breast surgery in ED, who felt not likely to be source of 
sepsis. 
# C/f necrotizing fasciitis: CT pelvis with area of soft tissue 
stranding with gas collection in L. groin as groin crease 
reaches perineum (5.8x2.5cm).
# UTI: U/A c/f UTI
# R. hepatic nodule 
Patient presents with elevated lactate and metabolic acidosis 
with multiple concerning infectious sources. Notably she has 
several skin lesions on R chest wall, R axilla, and L groin. She 
has an overlying 2.0 cm of irregular opacification in the right 
hepatic lobe which was indeterminate. She has blood and urine 
cultures which were drawn on admission, and she is being broadly 
covered with IV vancomycin, zosyn, and clindamycin. Surgery team 
did not feel that surgical intervention was indicated. Her 
lactate trended down with fluids from 4.1 on admission to 2.8 on 
___ AM. Although an ongoing issue is to follow up with 
radiology to better characterize the hepatic lesion, this 
ultimately may not be within the patient's goals of care. 

# Right chest wall mass: 
# Left axillary masses: 
Patient was found to have right chest wall mass extending into 
axilla (14.4x13.1cm) with exophytic mass over R. breast, along 
with multiple axillary, anterior chest wall, R. supraclavicular 
masses concerning for inflammatory breast cancer. She also has 
L. axillary masses c/f metastatic disease. Breast surgery was 
consulted for possibility of bedside core biopsy. Patient's 
family has determined that this would ultimately be within their 
goals even if only for diagnostic purposes. Her imaging and 
presentation is most consistent with metastatic breast cancer; 
there is no acute indication for debridement of the chest would 
per surgery and her family feels that palliative chemotherapy 
would not be within goals of care. Following breast biopsy, they 
would consider transitioning to comfort measures only.

#DVT/PE
On presentation had CT torso with DVT and PE. She was maintained 
on heparin drip with normal oxygen saturations.

#Anion Gap Metabolic Acidosis
#Lactic Acidosis               
Presented with 7.___, HCO3 7, AG 36. Appears to be improving 
s/p IVF. Likely ___ elevated lactate (4.1) at admission. ___ 
also have some component of renal failure vs. uremia, but 
unclear since her medical history is largely unknown to us at 
this time. Less likely DKA, as blood sugars have been wnl. 
Lactate is downtrending with fluids.

___
Cr 1.9 at admission, though unclear what patient's baseline Cr 
is. Per family, she has been increasingly oliguric over the last 
three months. She received over 6L fluids at OSH and in the ED. 
Her creatinine has been stable at 1.8.

# Encephalopathy
# Altered mental status
Patient is not oriented to person, place, or time. There may be 
some contribution of infection to her mental status. She 
received olanzapine in the ED but otherwise has no received 
significant sedating pain medications. There is a possibility 
that she has metastatic disease to the brain; family requests an 
MRI.

#Social Issues
Reportedly estranged from family members until recently. Unclear 
what her supports are. SW consulted in the ED. Notified family 
and sister ___ is at bed side.

#Poor IV ___
RN tried multiple times to get access, pt is difficult to draw 
labs from. Unable to place PICC or midline due to extensive 
axillary masses.

GOALS OF CARE:
After reviewing her clinical course in the ICU, the family met 
with the ICU team.  The decision was made to transition the 
patient to comfort measures only.  All medications were stopped 
other than for comfort.  There were no more lab draws or vital 
signs.  Season's hospice was consulted and the patient was 
transferred to home with hospice care.  She is DNR/DNI/DNH going 
forward.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Hyoscyamine 0.125 mg SL QID:PRN secretions 
RX *hyoscyamine sulfate 0.125 mg 1 tablet(s) sublingually four 
times a day Disp #*100 Tablet Refills:*0 
2.  LORazepam 0.5-1 mg PO Q6H:PRN anxiety 
RX *lorazepam [Lorazepam Intensol] 2 mg/mL 0.25-0.5 mL by mouth 
four times a day Refills:*0 
3.  Morphine Sulfate (Concentrated Oral Solution) 20 mg/mL ___ 
mg PO Q1H:PRN Pain - Severe 
RX *morphine concentrate 100 mg/5 mL (20 mg/mL) 0.25 mL by mouth 
every 2 hours Refills:*0 
4.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

RX *ondansetron 4 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute metabolic encephalopathy
Acute renal failure

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
The patient was admitted with confusion and new breast wound.  
After discussions with the family the decision was made to focus 
on comfort care.  We wish the patient and her family the best 
going forward.
 
Followup Instructions:
___